US08222424B2
Benzyl-indazole is dissolved in dimethylsulfoxide and potassium tert-butoxide (1 M solution in tetrahydrofuran) is added at room temperature. Oxygen is then bubbled into the solution for 5 minutes. The reaction is allowed to stir at room temperature for 18 h. The reaction is quenched with aqueous saturated ammonium chloride then extracted three times with ethyl acetate. The combined organic extracts are dried over sodium sulfate, and concentrated. Purification by flash chromatography provides the deprotected indazole.

reactant | Benzyl-indazole | C(C1=CC=CC=C1)C1=NNC2=CC=CC=C12 | C14H12N2
reactant | potassium tert-butoxide | 1 M | CC(C)([O-])C.[K+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | indazole | N1N=CC2=CC=CC=C12 | C7H6N2
